US07923450B2
Ethyl 2-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate
The title compound was prepared from crude ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate (165 mg, 0.5 mmol) and N-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (134 mg, 0.37 mmol) using in analogous manner the procedure described in example 45b). Obtained as an off-white solid (27 mg, 18%). MS ISP (m/e): 396.4 [(M+H)+]. mp 142-145° C.

reactant | ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate | 0.5 mmol, 165 mg | CN(C=C1C(C(CCC1)C(=O)OCC)=O)C | C12H19NO3
reactant | N-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.37 mmol, 134 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | Ethyl 2-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate | FC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C(=O)OCC | C21H22FN5O2
